US07211335B2
Synthesis of 2-(2-phenyl-6-{2-[4-(3-phenyl-5-pyren-1-yl-4,5-dihydro-pyrazol-1-yl)-phenyl]-vinyl}-pyran-4-ylidene)-malononitrile
As shown in the following reaction 6, 0.5 g (2.13 mmol) of 2-(2-methyl-6-phenyl-pyran-4-ylidene)-malononitrile and 0.961 g (2.13 mmol) of 4-(3-phenyl-5-pyren-1-yl-4,5-dihydro-pyrazol-1-yl)-benzaldehyde were added into 50 ml of ethanol, and 0.27 g (3.2 mmol) of piperidine was added thereto. The reaction solution was heated at 75° C. for 10 hours.

reactant | 2-(2-methyl-6-phenyl-pyran-4-ylidene)-malononitrile | 2.13 mmol, 0.5 g | CC=1OC(=CC(C1)=C(C#N)C#N)C1=CC=CC=C1 | C15H10N2O
reactant | 4-(3-phenyl-5-pyren-1-yl-4,5-dihydro-pyrazol-1-yl)-benzaldehyde | 2.13 mmol, 0.961 g | C1(=CC=CC=C1)C1=NN(C(C1)C1=CC=C2C=CC3=CC=CC4=CC=C1C2=C34)C3=CC=C(C=O)C=C3 | C32H22N2O
reactant | piperidine | 3.2 mmol, 0.27 g | N1CCCCC1 | C5H11N
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 2-(2-phenyl-6-{2-[4-(3-phenyl-5-pyren-1-yl-4,5-dihydro-pyrazol-1-yl)-phenyl]-vinyl}-pyran-4-ylidene)-malononitrile | C1(=CC=CC=C1)C=1OC(=CC(C1)=C(C#N)C#N)C=CC1=CC=C(C=C1)N1N=C(CC1C1=CC=C2C=CC3=CC=CC4=CC=C1C2=C34)C3=CC=CC=C3 | C47H30N4O
